US09034866B2
Synthesis of 9-(3-hydroxy-3-(tetrahydrofuran-2-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with 2-(tetrahydrofuran-2-yl)but-3-yn-2-ol to give a mixture of titled compounds after purification by HPLC.

reactant | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
reactant | 2-(tetrahydrofuran-2-yl)but-3-yn-2-ol | O1C(CCC1)C(C)(C#C)O | C8H12O2
product | 9-(3-hydroxy-3-(tetrahydrofuran-2-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | OC(C#CC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1)(C)C1OCCC1 | C20H21N3O4
